US06962914B2
To a solution of 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone (9.6 g, 38 mmol) in methanol (200 mL) was added hydroxylamine hydrochloride (13.5 g, 190 mmol) followed by the addition of a sodium hydroxide solution (7.8 g, 190 mmol in 50 mL of water). The resulting suspension was heated at reflux for 2 hours and then allowed to cool to room temperature. The mixture was concentrated and water was added to the resulting slurry. A white precipitate formed, which was collected by filtration, washed with water and dried (magnesium sulfate) to give 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone oxime (8.45 g, 84%) as a white solid. 1H NMR (DMSO-d6): δ 11.56 (s, 1H), 8.44 (d, 1H), 7.80 (m, 2H), 7.40 (m, 2H), 7.22 (m, 2H), 4.29 (s, 2H); 19F NMR (DMSO-d6): δ−113.44; MS m/z 265 (M+1).

reactant | 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone | 38 mmol, 9.6 g | ClC1=CC(=NC=C1)CC(=O)C1=CC=C(C=C1)F | C13H9ClFNO
reactant | hydroxylamine hydrochloride | 190 mmol, 13.5 g | Cl.NO
reactant | sodium hydroxide | 190 mmol, 50 mL, 7.8 g | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone oxime | 8.45 g, 84% | ClC1=CC(=NC=C1)CC(=NO)C1=CC=C(C=C1)F | C13H10ClFN2O
